US07994205B2
Methyl 4-methyl-1-phenyl-5-(phenylthio)-1H-pyrrole-3-carboxylate
To a solution of methyl 4-methyl-1-phenyl-1H-pyrrole-3-carboxylate (540 mg) in tetrahydrofuran (10 mL) were added N-iodosuccinimide (677 mg) and thiophenol (0.257 mL), and the mixture was stirred at room temperature for 2 days. Saturated aqueous sodium thiosulfate solution (10 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound as a pale-yellow oil (yield 812 mg, about 100%).

reactant | methyl 4-methyl-1-phenyl-1H-pyrrole-3-carboxylate | 540 mg | CC=1C(=CN(C1)C1=CC=CC=C1)C(=O)OC | C13H13NO2
reactant | N-iodosuccinimide | 677 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | thiophenol | 0.257 mL | C1(=CC=CC=C1)S | C6H6S
reactant | sodium thiosulfate | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Methyl 4-methyl-1-phenyl-5-(phenylthio)-1H-pyrrole-3-carboxylate | yield 812 mg, about 100% | CC=1C(=CN(C1SC1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C19H17NO2S
